US08124764B2
N-(2-Amino-phenyl)-4-[4-(8-fluoro-2-methyl-imidazo[1,2-a]pyridin-3-yl)-pyrimidin-2-ylamino]-benzamide
To a stirred solution of 3-fluoro-pyridin-2-ylamine (1.0 g, 8.92 mmol) in ethanol (20 mL) was added 3-chloro-pentane-2,4-dione (2.5 mL, 22.3 mmol) at room temperature. The reaction mixture was heated to reflux and then stirred for 48 hours. After the reaction completion, the volatiles were concentrated under reduced pressure and the residue was purified over silica gel column chromatography eluting with 2% MeOH/DCM to afford Int-1 (0.75 g, 44%) as off-white solid. Mass (m/z): 193 [M++1]. 1HNMR 200 MHz (CDCl3): δ 9.54 (d, J=7 Hz, 1H), 7.18 (t, J=7 Hz, 1H), 6.99-6.89 (m, 1H), 2.83 (s, 3H). 2.65 (s, 3H). A solution of Int-1 (0.75 g, 3.9 mmol) in DMF-DMA (10 mL) was stirred at reflux temperature for 48 hours. The reaction mixture was allowed room temperature and diluted with hexane (25 mL) and stirred for 10 minutes. The precipitated solid was filtered off, dried under vacuum to afford Int-2 (0.75 g, 78%) as brown color solid. Mass (m/z): 248 [M++1]. 1HNMR 200 MHz (CDCl3): δ 9.43 (d, J=6.2 Hz, 1H), 7.81 (d, J=12.4 Hz, 1H), 7.05 (t, J=7.6 Hz, 1H), 6.84-6.77 (m, 1H), 5.56 (d, J=12.2 Hz, 1H), 2.96 (s, 3H), 2.88 (s, 3H), 2.78 (s, 3H). Synthesis of Int-4: To a solution of Int-2 (1.5 g, 6.07 mmol) in DMF (25 mL) was added Int-3 (3.5 g, 18.2 mmol), followed by K2CO3 (2.5 g, 18.2 mmol) at room temperature and the reaction mixture was stirred at 110° C. for 16 hours. The reaction mixture was allowed to room temperature, poured in to ice-cold water (70 mL) and stirred further for 20 minutes. The precipitated solid was filtered off, washed with water (2×10 mL) and dried under vacuum to afford Int-4 (1.5 g, 68%) as brown solid. Mass (m/z): 364 [M++1]. 1HNMR 200 MHz (dmso-d6): δ 10.29 (s, 1H), 9.63 (d, J=6.8 Hz, 1H), 8.69 (d, J=5.6 Hz, 1H), 7.88 (s, 3H), 7.70 (t, J=10.6 Hz, 1H), 7.29-7.23 (m, 2H), 4.83 (brs, 1H), 3.9 (s, 3H), 2.73 (s, 3H). A mixture of Int-4 (1.5 g, 3.97 mmol) and 4 N HCl (20 mL) was stirred at reflux temperature for 3 hours. The reaction mixture was cooled to 0° C. and stirred for 20 minutes. The precipitated solid was filtered off, washed with water (2×10 mL) and dried under vacuum to afford Int-5 (1.0 g, 71%) as pale yellow solid. Mass (m/z): 364 [M++1]. 1HNMR 200 MHz (dmso-d6): δ 10.29 (s, 1H), 9.63 (d, J=6.8 Hz, 1H), 8.69 (d, J=5.6 Hz, 1H), 7.88 (s, 3H), 7.70 (t, J=10.6 Hz, 1H), 7.29-7.23 (m, 2H), 4.83 (brs, 1H), 2.73 (s, 3H). To a stirred suspension of Int-5 (0.8 g, 2.20 mmol) in DMF (10 mL) were added HOBt (0.29 g, 2.20 mmol), EDCI (1.05 g, 5.5 mmol), N-ethyldiisopropylamine (1.0 mL, 5.5 mmol) and NH2OTHP (0.51 g, 4.40 mmol) at 0° C. The reaction mixture was warmed to room temperature and the stirring was continued for 16 hours. The reaction mixture was poured in to ice-cold water (50 mL) and stirred for 20 minutes. The precipitated solid was filtered off, washed with water (2×10 mL) and dried under vacuum. The crude material was purified over silica gel column chromatography eluting with 3% MeOH/DCM to afford Int-6 (0.45 g, 44%) as white solid. Mass (m/z): 463 [M++1].

reactant | 3-fluoro-pyridin-2-ylamine | 8.92 mmol, 1.0 g | FC=1C(=NC=CC1)N | C5H5FN2
reactant | 3-chloro-pentane-2,4-dione | 22.3 mmol, 2.5 mL | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | K2CO3 | 18.2 mmol, 2.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 4 N, 20 mL | Cl | ClH
reactant | HOBt | 2.20 mmol, 0.29 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 5.5 mmol, 1.05 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-ethyldiisopropylamine | 5.5 mmol, 1.0 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NH2OTHP | 4.40 mmol, 0.51 g | NOC1OCCCC1 | C5H11NO2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | DMF-DMA | 10 mL | CN(C)C(OC)OC | C5H13NO2
solvent | hexane | 25 mL | CCCCCC | C6H14
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(2-Amino-phenyl)-4-[4-(8-fluoro-2-methyl-imidazo[1,2-a]pyridin-3-yl)-pyrimidin-2-ylamino]-benzamide | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC=C2F)C)=O | C25H20FN7O
